US07875728B2
4-(3,5-diamino-4-phenylazopyrazol-1-yl)benzoic acid was prepared using 85 mg (0.5 mmol) of 2-(phenylhydrazono)malononitrile, which was derived from aniline (10 mL, 107 mmol) and malononitrile (161 mmol), and 4-hydrazinobenzoic acid (76 mg, 0.5° mmol). After reacting for 4 hrs, the reaction remained as a slurry; however, analysis of the reaction solution by TLC indicated that no starting material remained. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 22 mg (14%) of the compound as a brown solid.

reactant | 2-(phenylhydrazono)malononitrile | 0.5 mmol, 85 mg | C1(=CC=CC=C1)NN=C(C#N)C#N | C9H6N4
reactant | aniline | 107 mmol, 10 mL | NC1=CC=CC=C1 | C6H7N
reactant | malononitrile | 161 mmol | C(CC#N)#N | C3H2N2
reactant | 4-hydrazinobenzoic acid | 76 mg | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
product | 4-(3,5-diamino-4-phenylazopyrazol-1-yl)benzoic acid | NC1=NN(C(=C1N=NC1=CC=CC=C1)N)C1=CC=C(C(=O)O)C=C1 | C16H14N6O2
